US06809225B2
To a solution of 1.50 g (5.9 mmole) 4-hydroxy-3-(1-phenyl-vinyl)-benzoic acid methylester and 1.04 g (6.1 mmole) benzyl bromide in 10 ml abs. acetone 1.24 g (8.9 mmole) potassium carbonate are added. The reaction mixture is then heated for 4 hours with recycling. Following cooling of the suspension, it is filtered and the residue is washed with 50 ml diethtylether. The solvent is removed and the raw product obtained is cleaned by column chromatography (silica gel, petroleum ether/MTBE=5/1 (v/v)). 1.62 g (4.7 mmole, 80%) 4-benzyloxy-3-(1-phenyl-vinyl)-benzoic acid-methylester are obtained.

reactant | 4-hydroxy-3-(1-phenyl-vinyl)-benzoic acid methylester | 5.9 mmole, 1.50 g | COC(C1=CC(=C(C=C1)O)C(=C)C1=CC=CC=C1)=O | C16H14O3
reactant | benzyl bromide | 6.1 mmole, 1.04 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetone | 8.9 mmole, 1.24 g | CC(=O)C | C3H6O
product | 4-benzyloxy-3-(1-phenyl-vinyl)-benzoic acid-methylester | 4.7 mmole, 1.62 g, 80% | COC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)C(=C)C1=CC=CC=C1)=O | C23H20O3
